US07615562B2
[4-(5-Fluoro-7-methyl-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared as described in Example 215, starting from SEM-protected 5-Fluoro-7-methyl-1H-indole (prepared by Sugasawa synthesis starting from 4-fluoro-2-methyl-phenylamine, J. Med. Chem. 1990, 33, 2777) and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by cleavage of the SEM protecting group with TBAF. Yield: 2.00 g (69%).

reactant | 5-Fluoro-7-methyl-1H-indole | FC=1C=C2C=CNC2=C(C1)C | C9H8FN
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | [4-(5-Fluoro-7-methyl-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | FC=1C=C2C(=CNC2=C(C1)C)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C22H28FN5
